US05110956
[{1-(1,3-Benzodioxol-5-yl)-2-methylpropyl}thio]acetic acid
A mixture comprising 2 g of 1-(1,3-benzodioxol-5-yl)-2-methyl-1-propanol, 1.3 g of mercaptoacetic acid, a catalytic amount of p-toluenesulfonic acid and 50 ml of benzene was heated under reflux for 5.5 hours, followed by the addition of ethyl acetate. The mixture was washed with water and extracted with a 2N aqueous solution of sodium hydroxide. The aqueous layer was washed with chloroform, acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, drided over anhydrous magnesium sulfate and concentrated in a vacuum to obtain a residue. This residue was purified by silica gel column chromatography (chloroform/methanol =20:1) to obtain 2.14 g of the title compound as a colorless oil.

reactant | 1-(1,3-benzodioxol-5-yl)-2-methyl-1-propanol | 2 g | O1COC2=C1C=CC(=C2)C(C(C)C)O | C11H14O3
reactant | mercaptoacetic acid | 1.3 g | SCC(=O)O | C2H4O2S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [{1-(1,3-Benzodioxol-5-yl)-2-methylpropyl}thio]acetic acid | 2.14 g | O1COC2=C1C=CC(=C2)C(C(C)C)SCC(=O)O | C13H16O4S
